US06630291B1
Phthalazine (0.40 moles) was dissolved in 200 ml of glacial acetic acid. Under nitrogen, 10 ml portions of a 32% solution of peracetic acid in acetic acid were added until 0.44 mole had been added and then the mixture was heated to 80° C. for 1 hour. The resulting reaction mixture was cooled to room temperature and the acetic acid was removed using a rotary evaporator. The solid residue was suspended/dissolved in 500 ml water and treated with 50 ml of 50% sodium hydroxide and extracted 5 times with 500 ml of dichloromethane. The organic extracts were combined, dried over magnesium sulfate, crystallized from dichloromethane-hexane, and vacuum-dried to yield 50.1 g of phthalazine N-oxide (0.34 mole), mp (DSC)=149° C. GC analysis showed the desired product contained less than 0.5% phthalazine.

reactant | Phthalazine | 0.40 moles | C1=NN=CC2=CC=CC=C12 | C8H6N2
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | phthalazine N-oxide | 0.34 mole, 50.1 g | C1=[N+](N=CC2=CC=CC=C12)[O-] | C8H6N2O
